Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Imitrex / Toradol / Aspirin / morphine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
___ year old female PMH of CVA (paraplegic with neurogenic 
voiding dysfunction), RA, lupus, possible Crohn's (not 
consistent pathology on prior admission), chronic abdominal pain 
(multiple SBOs s/p subtotal colectomy), nephrolithiasis, DM2, 
anxiety, and depression, narcotics dependence, now s/p SPT 
replacement on ___ with new onset abdominal symptoms and pain. 
  

The patient has been having lower abdominal pain and has been 
having bilateral lower back pain. The patient has intermittent 
objective fevers to 102 during this time. The patient otherwise 
is having some chills. The patient states that there has been 
urine leaking around the suprapubic cath. She went to ___ 
___ and started on PO ABx for UTI (Keflex). The patient had 
a CT scan at ___ which was unremarkable, but as she has had 
continued pain and UTI symptoms. She had an initial lactic of 
3.0 that improved after fluids. 

Pertinent ED course:
Initial vitals: T98.5, HR 108, BP 122/97, RR 18, 97% Ra

Exam: redness around suprapubic site with significant 
tenderness, afebrile during entire ED stay

Relevant labs: 
BMP: Na 138, K 4.1, Cl 102, HCO3 21, BUN 8, Cr 0.7
CBC: WBC 12.0, Hgb 11.6, platelets 224
UA: cloudy with large leuk, mod blood, nitrate positive, protein 
600, gluc 150, RBC 78, WBC 182, Bact many
Bcx and ucx pending

Patient was given:
- Hydromorphone 1 mg x 8
- NS 2 L
- Cefepime 2g 
- Acetaminophen 1 g x2
- Insulin 

Consult: urology
 
Vitals on transfer: T97.8, HR 102, BP 107/73, RR 16, 98% Ra

Upon arrival to the floor, the patient reports that she is in 
terrible pain. She says this is significantly worse than pain 
she has had on prior admissions. She says it is nothing like her 
admission in ___ for similar complaints.  The patient 
reports she has had fevers at home up to 102. She says the pain 
started right after her procedure on ___. It has only gotten 
worse since then. She notes headache, chills, no rigors, no 
lightheadedness. She notes the catheter was draining red liquid 
and now it is clear. Her appetite is decreased and she has had 
some nausea and vomiting. She states she has been having normal 
bowel movements and that this does not feel like her prior small 
bowel obstructions.

She says she has both pain and anxiety right now. She says she 
takes Xanax up to 3x a day. 

The patient states she knows her medications and doses, but on 
review of her medications the only thing she is able to share is 
she is not taking her methotrexate right now because she is 
worried she is infected. She has confusion surrounding some of 
her meds including atorvastatin that she said she discontinued, 
and paroxetine she says she may be taking 2x a day. She says she 
took all 40 of her oxycodone within the first week or so after 
her catheter placement.   
 
REVIEW OF SYSTEMS:  
(+) per HPI
(-) for chest pain, palpitations, shortness of breath, cough

 
Past Medical History:
 1. Seropositive rheumatoid arthritis.  
 2. ?SLE diagnosed in ___ in the setting of Humira. Never on  
 hydroxychloroquine. No kidney biopsy or history of nephritis.  
 3. ?Crohn's disease complicated by multiple small bowel  
 obstructions.  
 4. CVAs and ?spinal cord infarct in ___ cardiac 
arrest, resulting in bilateral lower extremity paralysis, atonic 
bladder now s/p SPT  
 5. Diabetes diagnosed at age ___.  
 6. Depression.  
 7. Insomnia.  
 8. Narcotic dependence.  
 9. ___ femoral head avascular necrosis  
 
Social History:
___
Family History:
Mother - RA, DM
Father - CAD, DM, RA
MGM - RA, DM
PGM - RA, DM
Maternal aunt and maternal cousins - breast cancer
 
Physical Exam:
ADMISSION PHYSICAL
================
GENERAL: appears distressed, rolling over in bed with complaints 
of abdominal pain. 
HEENT: pupils equal and reactive, but small, nonicteric sclera, 
dry MMM, neck soft without lymphadenopathy 
CV: normal S1, S2, RRR, no mururs/rubs/gallops
RESP: clear to auscultation, no wheezes or gallops
GI/GU: abdomen with normal bowel sounds, non-distended, rigid on 
exam. Site around supra-pubic catheter has small ~1 cm erythema 
that dull in color, exquisitely tender to palpation with 
positive costophrenic tenderness (patient reports abdominal pain 
w/ test). 
MSK: cool extremities, 2+ DP, no peripheral edema
SKIN: no excoriations, rashes noted
NEURO: does not move legs spontaneously, moves other extremities 
w/o difficulty. 
PSYCH: AOx2

DISCHARGE PHYSICAL
===================
VITALS: 97.9 PO128 / 74 L Lying 71 1695RA  
GENERAL: appears more comfortable today
HEENT: pupils equal and reactive, but small, nonicteric sclera
MMM, neck soft without lymphadenopathy 
CV: normal S1, S2, RRR, no mururs/rubs/gallops
RESP: clear to auscultation, no wheezes or gallops
GI/GU: abdomen with normal bowel sounds, softer on exam this
AM, distractible, SPT site looks lcean and dry
MSK: warm extremities, 2+ DP, trace edema bilaterally
SKIN: no excoriations, rashes noted
NEURO: does not move legs spontaneously, no sensation in LEs,
moves other extremities w/o difficulty. 
 
Pertinent Results:
ADMISSION 
=========
___ 12:15AM BLOOD WBC-12.0*# RBC-4.14 Hgb-11.6 Hct-37.0 
MCV-89 MCH-28.0 MCHC-31.4* RDW-14.5 RDWSD-47.2* Plt ___
___ 12:15AM BLOOD Neuts-60 Bands-0 ___ Monos-6 Eos-2 
Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-7.20* AbsLymp-3.84* 
AbsMono-0.72 AbsEos-0.24 AbsBaso-0.00*
___ 12:15AM BLOOD Glucose-179* UreaN-8 Creat-0.7 Na-138 
K-4.1 Cl-102 HCO3-21* AnGap-15

DISCHARGE
=========
___ 07:15AM BLOOD WBC-7.1 RBC-4.01 Hgb-11.4 Hct-35.9 MCV-90 
MCH-28.4 MCHC-31.8* RDW-14.6 RDWSD-47.2* Plt ___
___ 07:15AM BLOOD Glucose-106* UreaN-4* Creat-0.6 Na-143 
K-4.1 Cl-104 HCO3-23 AnGap-16
___ 07:15AM BLOOD Calcium-9.1 Phos-4.4 Mg-1.7

MICRO
=====
___ 1:15 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ BCx: NGTD

IMAGING 
=======

___ KUB
FINDINGS:
 
There is a moderate amount of gas in the stomach and small bowel 
loops. Fecal
material is seen in the rectum. There is marked dilation of the 
sigmoid colon
which is increased from prior exam.
Supine assessment limits detection for free air; there is no 
gross
pneumoperitoneum.
Osseous structures are unremarkable.
Curvilinear metallic densities are seen again in the right 
hemiabdomen,
unchanged from previous studies.
There are no unexplained soft tissue calcifications or 
radiopaque foreign
bodies.
 
IMPRESSION:
 
Marked dilation of the sigmoid colon, increased from prior exam. 
Consider
contrast enhanced CT to evaluate for active disease.

___ KUB
FINDINGS: 
 
A moderate amount of gas is again noted in the stomach and 
proximal smallbowel. There is interval improvement of the 
dilated sigmoid colon when compared to the most recent study.  
Overall, there is a nonobstructive gas pattern. There is no free 
intraperitoneal air.
Osseous structures are unremarkable. Curvilinear metallic 
densities are seen again in the right hemiabdomen, unchanged 
from the previous study.
There are no unexplained soft tissue calcifications or 
radiopaque foreign bodies.
 
IMPRESSION: 
 
Interval improvement of the sigmoid colon dilation.

 
Brief Hospital Course:
___ year old female PMH of CVA (paraplegic with neurogenic 
voiding dysfunction), RA, lupus, possible Crohn's, chronic 
abdominal pain (multiple SBOs s/p subtotal colectomy), 
nephrolithiasis, DM2, anxiety, and depression, now s/p SPT 
replacement on ___ with new onset abdominal symptoms and pain 
concerning for complicated UTI. 

ACUTE/ACTIVE PROBLEMS:
#Sepsis secondary to UTI
Patient with initial fever, leukocytosis, tachycardia, and 
recent instrumentation and UA concerning for ongoing urinary 
tract infection meeting sepsis criteria. Patient has had a 
multitude of various urinary tract infections previously 
including proteus and. e-coli. Most recent available culture on 
admission showed proteus resistant to keflex, started on 
cefepime to cover for this. Cultures from OSH showed E. Coli in 
the urine pan sensitive, and mixed flora from suprapubic ostomy 
swab that were sensitive to quinolone, so patient was switched 
to levofloxacin and sent home with oral levofloxcain to continue 
until ___.  Leukocytosis resolved with IVF and Antibiotics.   
Pt had improvement in symptoms and was tolerating po diet 
without difficulty by the time of discharge.

#Abdominal pain: 
#Lower back pain:
#Opiate related constipation
Patient has no abnormal findings of air on her OSH CT scan other 
than some fat stranding around SPT felt consistent with recent 
replacement. Urology was consulted in ED and during admission 
and saw no need for any surgical intervention. SPT looked clean, 
ostomy site with no evidence of active infection. She was given 
pain control initially with standing tylenol and IV dilaudid, 
dilaudid PCA. She was converted to PO oxycodone which was 
tapered down to 5mg q8h on discharge. She had a KUB on ___ 
which showed dilated sigmoid colon with large stool burden, but 
received methylnatrexone and had multiple BMs.  Repeat KUB 
showed improvement in dilation and symptoms improved. She was 
maintained on an aggressive bowel regimen. Oxybutinin was also 
added as patient likely having bladder spasm, and gabapentin 
added for non-opioid pain control to help taper down on opioid 
dose, given concerns for opioid induced constipation with h/o 
SBO.   Pt was educated about the importance of avoiding opiates 
and weaning down off oxycodone as soon as possible.

#Nutrition:
Patient taking poor PO intake with dry MM on admission. Intake 
improved over the course of the hospitalization.

#Anxiety: 
#Psych: 
#Insomnia 
Continued trazadone (home is 300 mg nightly, gave 150 mg), paxil 
continued 40 mg daily, amitriptyline 50mg QHS, continued 
alpraxolam 0.5 mg BID 

#DM2: 
Held home metformin 1000 mg BID, started ISS

TRANSITIONAL ISSUSES:
=====================
[] Some concern around narcotics use during admission and 
associated constipation. 
[] Discharged with 14 pills of 5mg oxycodone
[] Would check a chem-10 at PCP ___ appointment, magnesium 
required replacement during admission likely due to multiple BMs
[] Would likely benefit from connection to a pain management 
specialist
[] Uptitrate gabapentin as tolerated, discharged on 300 mg TID 
[] Patient with intermittent use of methotrexate would benefit
from outpatient Rheum follow up (previously in system) 
[] Likely would benefit from GI follow up in ___ clinic 
(___
recommended Dr. ___ or Dr. ___ on a
prior admission)
[] NEW MEDS: Gabapentin 300mg TID, oxybutynin 5mg BID, 
levofloxacin 500mg q24h through ___
# HCP: sister: ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 300 mg PO QHS 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. PARoxetine 40 mg PO DAILY 
4. Amitriptyline 50 mg PO QHS 
5. ALPRAZolam 0.5 mg PO BID 
6. Glargine 10 Units Breakfast
Glargine 10 Units Dinner
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 capsule(s) by mouth every eight (8) 
hours Disp #*270 Capsule Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*90 Capsule Refills:*0 
3.  Gabapentin 300 mg PO TID 
RX *gabapentin [Neurontin] 300 mg 1 capsule(s) by mouth three 
times a day Disp #*135 Capsule Refills:*0 
4.  Levofloxacin 500 mg PO Q24H Duration: 6 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*0 
5.  Oxybutynin 5 mg PO BID 
RX *oxybutynin chloride 5 mg 1 tablet(s) by mouth twice a day 
Disp #*90 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*45 Packet Refills:*0 
8.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*90 Tablet Refills:*0 
9.  Glargine 10 Units Breakfast
Glargine 10 Units Dinner 
10.  ALPRAZolam 0.5 mg PO BID  
11.  Amitriptyline 50 mg PO QHS  
12.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies  

13.  MetFORMIN (Glucophage) 1000 mg PO BID  
14.  PARoxetine 40 mg PO DAILY  
15.  TraZODone 300 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
=============
Complicated urinary tract infection

Secondary Diagnosis
================
Abdominal pain
Opiate induced constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,

It was a pleasure to take care of you at ___. 

WHY WAS I HERE?
You were admitted to the hospital because you had been having 
abdominal pain and had a urinary infection.

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL
- You were treated with antibiotics for your infection
- You were given medications to help control your pain

WHAT SHOULD I DO WHEN I GET HOME?
1) Follow up with your Primary Care Doctor.
2) Please take all your medications as prescribed

We wish you the best!

Your ___ Care Team
 
Followup Instructions:
___